US06573273B1
Using the general method of Example 146 Part B, 4-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)butan-1-amine (2.50 g, 8.9 mmol) was reacted with phenyl isocyanate (1.78 mL, 16.4 mmol) to provide 0.67 g of N-[4-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-N′-phenylurea as an off white solid.

reactant | 4-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)butan-1-amine | 8.9 mmol, 2.50 g | C(CC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCCN | C17H22N4
reactant | phenyl isocyanate | 16.4 mmol, 1.78 mL | C1(=CC=CC=C1)N=C=O | C7H5NO
product | N-[4-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-N′-phenylurea | 0.67 g | C(CC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCCNC(=O)NC1=CC=CC=C1 | C24H27N5O
